Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
codeine
 
Attending: ___.
 
Chief Complaint:
Brbpr, N/V/D
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
HPI(4): Ms. ___ is a ___ female with history of 
T2DM,
hypothyroidism, HTN who presents with 3 days of abdominal pain
associated with bloody diarrhea. 

Symptoms first started on ___ night but haven't improved 
since
with abdominal pain that first started in mid-abdomen but for 
the
past 2 days has been persistent in the LLQ with paroxysms of
severe sharp pain and persistent soreness and discomfort all in
the same location. She reports frankly bloody stool for the past
2 days and 2 weeks of reflux. She denies previous history of
similar symptoms. She only took advil once this past week but
denies excessive NSAIDs use. She notes a recent outbreak at the
school where she teaches with a stomach bug making its way
around. Denies recent abx use. Denies recent travel. 

In the ED: 
Exam: 
 AFVSS
 diffusely tender, most TTP in LLQ
 rectal without hemorrhoids, empty rectal vault though trace of 
red blood, guaiac positive
Labs: Hgb 11.8->11.6, no leukocytosis, lactate 2.8->1.2, LFTs 
wnl
Imaging: CT A/P with ___ sigmoid colitis
Impression: infectious colitis
Interventions: cipro, flagyll, 1L NS, 1L LR

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
PAST MEDICAL / SURGICAL HISTORY:
T2DM on metformin
HTN
HL
Obesity
Hypothyroidism

 
Social History:
___
Family History:
FAMILY HISTORY: Reviewed and found to be not relevant to this
illness/reason for hospitalization.

 
Physical Exam:
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema. Oropharynx without
visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, minimally tender to palpation 
in LLQ. 
Bowel sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly
symmetric
SKIN: No obvious rashes or ulcerations noted on cursory skin 
exam
NEURO: Alert, oriented, face symmetric, speech fluent, moves all
limbs
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
Admission Labs 
========================
___ 06:15AM BLOOD WBC-5.8 RBC-3.92 Hgb-11.8 Hct-35.4 MCV-90 
MCH-30.1 MCHC-33.3 RDW-14.5 RDWSD-48.1* Plt ___
___ 09:56AM BLOOD Neuts-77.1* Lymphs-14.1* Monos-4.8* 
Eos-3.2 Baso-0.2 Im ___ AbsNeut-4.79 AbsLymp-0.88* 
AbsMono-0.30 AbsEos-0.20 AbsBaso-0.01
___ 06:15AM BLOOD ___ PTT-28.5 ___
___ 09:56AM BLOOD Glucose-107* UreaN-11 Creat-0.6 Na-139 
K-4.1 Cl-103 HCO3-23 AnGap-13

CT Abdomen  
1. Submucosal edema of the distal descending and proximal 
sigmoid colon with a trace amount of free fluid and mild 
surrounding mesenteric fat stranding, concerning for mild 
colitis. 
2. 1.2 cm hypodense lesion within the body of the pancreas, if 
further 
evaluation is indicated recommend a nonemergent MRCP. 
  
Discharge Labs 
=================================
___ 06:15AM BLOOD WBC-5.8 RBC-3.92 Hgb-11.8 Hct-35.4 MCV-90 
MCH-30.1 MCHC-33.3 RDW-14.5 RDWSD-48.1* Plt ___
___ 06:15AM BLOOD Glucose-104* UreaN-6 Creat-0.5 Na-144 
K-3.2* Cl-104 HCO3-25 AnGap-15
___ 06:15AM BLOOD ALT-17 AST-19 LD(LDH)-176 AlkPhos-63 
TotBili-0.7
___ 06:15AM BLOOD Albumin-3.5 Calcium-8.7 Phos-3.7 Mg-1.7
___ 11:19PM BLOOD Lactate-1.2
 
Brief Hospital Course:
Ms. ___ is a ___ female with history of T2DM, 
hypothyroidism, HTN who presents with 3 days of abdominal pain 
associated with bloody diarrhea found to have colitis now 
improving. 

#Infectious colitis 
#N/V/D 
#Bloody diarrhea
acute onset with positive sick contacts at work. Her c diff and 
norovirus were negative. Her ct abdomen pelvis with mild 
colitis. She was started on cipro and flagyl and will complete a 
7 day course. She was treated with IVF and symptomatically 
improved. She was able to tolerate a diet. Her Hgb was monitored 
and remained completely stable at discharge was 11.8. 

#Hypokalemia 
Was repleted. Offered for her to stay in the hospital one more 
day but she would rather return home. She states she will eat 
some high potassium foods at home. 

#HTN 
blood pressure was low mostly 100-120s holding her home 
antihypertensive. Should have her BP rechecked by her PCP and 
restart her home hydrochlorothiazide. 

#Incidentally Found 1.2 cm hypodense lesion within the body of 
the pancreas
-Will need MRCP as outpatient 

Transitional Issues 
==============================
[] Restart HCTZ when blood pressure improved
[] She is suppose to have outpatient ___ in next few weeks for 
screening 
[] 1.2 cm hypodense lesion within the body of the pancreas, will 
need MRCP as outpatient  

>30 minutes were spent on complex discharge 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MetFORMIN (Glucophage) 500 mg PO BID 
2. Levothyroxine Sodium 100 mcg PO DAILY 
3. Hydrochlorothiazide 12.5 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q4H:PRN Pain - Mild/Fever  
2.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl [Cipro] 500 mg 1 tablet(s) by mouth twice 
a day Disp #*14 Tablet Refills:*0 
3.  MetroNIDAZOLE 500 mg PO TID 
RX *metronidazole [Flagyl] 500 mg 1 tablet(s) by mouth three 
times a day Disp #*21 Tablet Refills:*0 
4.  Levothyroxine Sodium 100 mcg PO DAILY  
5.  MetFORMIN (Glucophage) 500 mg PO BID  
6. HELD- Hydrochlorothiazide 12.5 mg PO DAILY  This medication 
was held. Do not restart Hydrochlorothiazide until you follow 
with your primary care docotr as you blood pressure was low in 
the setting of infection 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#Infectious Colitis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital after you had abdominal pain, 
bleeding, and diarrhea at home. 

You had a CT scan which showed colitis. This was likely from an 
infection. You were treated with antibiotics and with this you 
improved. You were able to eat normally. 

Likely we discussed you will need to complete a 7 day course of 
antibiotics and follow closely with your primary care doctor. 
Your bleeding should stop. If you notice increasing bleeding, 
large amount of blood at one time, or are worried please return 
to the hospital. 

In the setting of diarrhea and infection your blood pressure was 
low. Do not take your hydrochlorothiazide until you follow up 
with your primary care doctor and have your blood pressure 
rechecked. 

It was a pleasure caring for you, 
Your ___ Team 

 
Followup Instructions:
___